US06380218B1
N-(5-Acetyl-thiophen-2-ylmethyl)-2-(pyridin-3-yloxy)-nicotinamide
A solution of N-[5-(2-Methyl-[1,3]dioxolan-2-yl)-thiophen-2-ylmethyl]-2-(pyridin-3-yloxy)-nicotinamide (0.680 g) in 2 N hydrochloric acid (20 ml) and methylene chloride (20 ml) was stirred at room temperature over night. The mixture was extracted with chloroform, washed with water, dried over MgSO4, filtered and concentrated to give a solid which was triturated in diethyl ether to give a white solid. (0.480 g). M.P. 201-203° C.; Anal. calcd. for C18H15N3O3S: C, 61.18; H, 4.28; N, 11.89. Found: C, 60.09; H, 4.25; N, 11.61.

reactant | N-[5-(2-Methyl-[1,3]dioxolan-2-yl)-thiophen-2-ylmethyl]-2-(pyridin-3-yloxy)-nicotinamide | 0.680 g | CC1(OCCO1)C1=CC=C(S1)CNC(C1=C(N=CC=C1)OC=1C=NC=CC1)=O | C20H19N3O4S
solvent | hydrochloric acid | 2 N, 20 ml | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(5-Acetyl-thiophen-2-ylmethyl)-2-(pyridin-3-yloxy)-nicotinamide | C(C)(=O)C1=CC=C(S1)CNC(C1=C(N=CC=C1)OC=1C=NC=CC1)=O | C18H15N3O3S
